US05254558
To a solution of ethyl 1-(2,2-dimethoxyethyl)-2-(2-thienyl)pyrimidin-6(1H)-one-5-carboxylate in pyridine (33 mL) was added lithium iodide (3.32 g) and the resulting mixture was heated at 110° C. overnight. The pyridine was evaporated and residual traces of pyridine were removed by evaporation with toluene. The residue was dissolved in 1N hydrochloric acid and the product was extracted into ethyl acetate. The solution was dried and evaporated to give an oil which crystallized from ether to provide 1-(2,2-dimethoxyethyl)-2-(2-thienyl)pyrimidin-6(1H)-one-5-carboxylic acid as a brown solid; MS: m/z=311(M+1).

reactant | ethyl 1-(2,2-dimethoxyethyl)-2-(2-thienyl)pyrimidin-6(1H)-one-5-carboxylate | COC(CN1C(=NC=C(C1=O)C(=O)OCC)C=1SC=CC1)OC | C15H18N2O5S
reactant | lithium iodide | 3.32 g | [I-].[Li+]
solvent | pyridine | 33 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,2-dimethoxyethyl)-2-(2-thienyl)pyrimidin-6(1H)-one-5-carboxylic acid | COC(CN1C(=NC=C(C1=O)C(=O)O)C=1SC=CC1)OC | C13H14N2O5S
